US07381719B2
Add sodium bicarbonate (0.0823 g, 0.980 mmol) to a stirred solution of 6-[4-(2-benzylamino-ethyl)-phenoxy]-nicotinamide (0.3061 g, 0.881 mmol), (2-bromoethyl)benzene (0.135 mL, 0.988 mmol), and DMF (5 mL). Heat the reaction to reflux for 3 h under nitrogen and then cool to room temperature. Pour the reaction into water (50 mL) and extract with diethyl ether (3×50 mL). Dry the diethyl ether extracts over magnesium sulfate and then filter off the magnesium sulfate. Concentrate on a rotary evaporator and purify the crude product by flash chromatography on silica gel eluting with 90% ethyl acetate/hexanes to yield 0.1538 g (39%) of 6-{4-[2-(benzyl-phenethyl-amino)-ethyl]-phenoxy}-nicotinamide: mass spectrum (ion spray): m/z=452.1 (M+1); 1H NMR (CDCl3): 8.55 (d, 1H), 8.13 (dd, 1H), 7.29-7.11 (m, 14H), 7.01 (d, 2H), 6.92 (d, 1H), 3.71 (s, 1H), 2.94-2.77 (m, 9H).

reactant | sodium bicarbonate | 0.980 mmol, 0.0823 g | C([O-])(O)=O.[Na+]
reactant | 6-[4-(2-benzylamino-ethyl)-phenoxy]-nicotinamide | 0.881 mmol, 0.3061 g | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C21H21N3O2
reactant | (2-bromoethyl)benzene | 0.988 mmol, 0.135 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 6-{4-[2-(benzyl-phenethyl-amino)-ethyl]-phenoxy}-nicotinamide | 0.1538 g, 39% | C(C1=CC=CC=C1)N(CCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)CCC1=CC=CC=C1 | C29H29N3O2
